US06936612B2
4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester (0.051 g, 0.083 mmol) was dissolved in dichloromethane (3 mL) to which 2 N HCl (2 mL) was added and the mixture was stirred at room temperature for 2 hours. This mixture was concentrated and allowed to sit for 10 days, it was then dissolved in 2 N HCl (2 mL) and stirred at room temperature for 5 hours. The solvent was removed to give 6-bromo-8-cyclopentyl-2-[5-(3,5-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt as a yellow solid (0.039 g, 71.4%). 1H NMR δ (400 MHz, DMSO-d6) 9.51 (m, 1H), 9.02 (m, 1H), 8.98 (s, 1H), 8.07 (s, 1H), 7.83 (s, 2H), 5.90 (m, 1H), 3.85 (d, J=11.2 Hz, 2H), 3.35 (m, 2H), 2.76 (dd, J=12.0, 12.0 Hz 2H), 2.58 (s, 3H), 2.14 (m, 2H), 1.92 (m, 2H), 1.77 (m, 2H), 1.58 (m, 2H), 1.28 (d, J=6.4 Hz, 6H).

reactant | 4-[6-(6-Bromo-8-cyclopentyl-5-methyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | 0.083 mmol, 0.051 g | C(C)(C)(C)OC(=O)N1C(CN(CC1C)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2C)Br)=O)C2CCCC2)C | C29H38BrN7O3
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | HCl | 2 N, 2 mL | Cl | ClH
product | 6-bromo-8-cyclopentyl-2-[5-(3,5-dimethyl-piperazin-1-yl)-pyridin-2-ylamino]-5-methyl-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride salt | 0.039 g, 71.4% | Cl.BrC1=C(C2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CC(NC(C2)C)C)N(C1=O)C1CCCC1)C | InChI=1S/C24H30BrN7O.ClH/c1-14-12-31(13-15(2)28-14)18-8-9-20(26-10-18)29-24-27-11-19-16(3)21(25)23(33)32(22(19)30-24)17-6-4-5-7-17;/h8-11,14-15,17,28H,4-7,12-13H2,1-3H3,(H,26,27,29,30);1H
